US07915424B2
(5-Bromo-2-fluorobenzyl)carbamic acid tert-butyl ester
Dissolve 5-bromo-2-fluorobenzylamine hydrochloride (1.00 g, 4.16 mmol) in 1,4-dioxane (16 mL) and 0.5 N sodium hydroxide (10 mL). Add di-tert-butyl dicarbonate (1.09 g, 4.99 mmol) and stir the biphasic mixture overnight. Make the aqueous layer acidic with aqueous saturated solution of sodium hydrogensulfate and extract three times with ethyl acetate. Combine the organic layers and wash with an aqueous saturated solution of sodium chloride, dry (sodium sulfate), filter, and concentrate to give the title compound as a colorless oil, which crystallizes upon standing (1.3 g, 100%).

reactant | 5-bromo-2-fluorobenzylamine hydrochloride | 4.16 mmol, 1.00 g | Cl.BrC=1C=CC(=C(CN)C1)F
reactant | di-tert-butyl dicarbonate | 4.99 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogensulfate | S(=O)(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 0.5 N, 10 mL | [OH-].[Na+]
product | (5-Bromo-2-fluorobenzyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)Br)F)=O | C12H15BrFNO2
